US05808058
10-oxo-10,11-dihydro-5H-dibenz(b,f)azepine
22.3 g of 10-methoxy-5H-dibenz(b,f)azepine are heated under reflux with 100 ml of 2N hydrochloric acid for 2 hours. The gummy residue is extracted with chloroform (50÷50 ml), the combined extracts are washed with water and evaporated to dryness under vacuum. The residue is taken up into 200 ml of ethanol, treated with charcoal (2 g) for 1 h under reflux, filtered, evaporated to dryness under vacuum, finally taken up into 50÷50 ml of toluene, stripping thoroughly. The residue is kept for further working-up.

reactant | 10-methoxy-5H-dibenz(b,f)azepine | 22.3 g | COC1=CC2=C(NC3=C1C=CC=C3)C=CC=C2 | C15H13NO
solvent | hydrochloric acid | 2N, 100 ml | Cl | ClH
product | 10-oxo-10,11-dihydro-5H-dibenz(b,f)azepine | O=C1CC2=C(NC3=C1C=CC=C3)C=CC=C2 | C14H11NO
